datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COC(=O)N1c2ccccc2[C@@]23CC[N:10]4CC=C[C@]5(CC[C@]12[C@](O)(C(=O)OC)C5O)[C@@H]34.[NH3+][C@@H](CCCCN1C(=O)C[C@H]([NH2+:21][H:20])C1=O)C(=O)[O-]>>COC(=O)N1c2ccccc2[C@@]23CC[N+:10]4([H:20])CC=C[C@]5(CC[C@]12[C@](O)(C(=O)OC)C5O)[C@@H]34.[NH3+][C@@H](CCCCN1C(=O)C[C@H]([NH2:21])C1=O)C(=O)[O-] 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCC1.COc1c(C=O)c(CO)c[n:10]c1C>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCC1.COc1c(C=O)c(CO)c[n+:10]([H:20])c1C 10=20;20,21=21",
"O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH+:21](CCCCCCCCCCCCCCC)[H:20].CN1C2=C(CCCC2)O/C1=[N:10]\C>>CCCCCCCCCCCCCCC[NH:21]CCCCCCCCCCCCCCC.CN1C2=C(CCCC2)O/C1=[N+:10](\C)[H:20] 10=20;20,21=21",
"CCCCNc1nc[n:10]c2[nH]ncc12.O=C(CCC(=O)[O:21][H:20])c1cccc2ccccc12>>CCCCNc1nc[n+:10]([H:20])c2[nH]ncc12.O=C(CCC(=O)[O-:21])c1cccc2ccccc12 10=20;20,21=21",
"CCC(C)[N+:21](C)(c1ccccc1)[H:20].c1ccc([NH:10]C2CCCC2)cc1>>CCC(C)[N:21](C)c1ccccc1.c1ccc([NH+:10](C2CCCC2)[H:20])cc1 10=20;20,21=21",
"COc1ccc(CC(C)[NH:10]C)cc1OC.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C=CCc1ccc([O-:10])c(OC)c1.CC(=O)n1ccc[n+:21]1[H:20]>>C=CCc1ccc([O:10][H:20])c(OC)c1.CC(=O)n1ccc[n:21]1 10=20;20,21=21",
"CC(=O)c1ccccc1[N-:10]N=C1C(=O)CC(C)(C)CC1=O.C[N+:21](C)(Cc1cc(/N=N/c2ccccc2)ccc1[O-])[H:20]>>CC(=O)c1ccccc1[N:10](N=C1C(=O)CC(C)(C)CC1=O)[H:20].C[N:21](C)Cc1cc(/N=N/c2ccccc2)ccc1[O-] 10=20;20,21=21",
"CC1=CC(Br)=C([O:21][H:20])C(=O)C=C1.Cn1n[n+](C)nc1[NH-:10]>>CC1=CC(Br)=C([O-:21])C(=O)C=C1.Cn1n[n+](C)nc1[NH:10][H:20] 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC[N:10](CC)CCOC(=O)c1ccccc1.Cc1cc(C)c(/N=N/c2c(C)cc([O:21][H:20])cc2C)c(C)c1>>CC[N+:10](CC)(CCOC(=O)c1ccccc1)[H:20].Cc1cc(C)c(/N=N/c2c(C)cc([O-:21])cc2C)c(C)c1 10=20;20,21=21",
"C[n+]1nc([O:21][H:20])ccc1[O-].c1coc(C[NH2+]CC[NH:10]Cc2ccco2)c1>>C[n+]1nc([O-:21])ccc1[O-].c1coc(C[NH2+]CC[NH+:10](Cc2ccco2)[H:20])c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCCCCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(Br)(C[NH2:10])[N+](=O)[O-].Cc1[nH]c(CO)[n+:21]([H:20])c1C>>CC(Br)(C[NH2+:10][H:20])[N+](=O)[O-].Cc1[nH]c(CO)[n:21]c1C 10=20;20,21=21",
"C=C(C)C(=O)OCC[N:10](C)C.OC(c1ccncc1)[O:21][H:20]>>C=C(C)C(=O)OCC[N+:10](C)(C)[H:20].OC(c1ccncc1)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CC[NH2+:10][H:20] 10=20;20,21=21",
"CCOC(=O)C1=N[N-:10]C2=C(C1=O)C(=O)N(C)C(=O)N2C.Clc1ccc([O:21][H:20])cc1>>CCOC(=O)C1=N[N:10]([H:20])C2=C(C1=O)C(=O)N(C)C(=O)N2C.Clc1ccc([O-:21])cc1 10=20;20,21=21",
"C=CC(CC(C)(C)C)c1ccc2cccnc2c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=CC(CC(C)(C)C)c1ccc2cccnc2c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCS/C(c1cccc(C)c1)=[O+:21]\[H:20].[S-]c1ncc2nc[n-:10]c2n1>>CCSC(c1cccc(C)c1)=[O:21].[S-]c1ncc2nc[n:10]([H:20])c2n1 10=20;20,21=21",
"C=CC(C)[NH:10]c1ccccc1.COc1nc(N)c2c(nc[n:21]2[H:20])n1>>C=CC(C)[NH+:10](c1ccccc1)[H:20].COc1nc(N)c2c(nc[n-:21]2)n1 10=20;20,21=21",
"Cc1cc(C)c([O-:10])c(C(C)C)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)c([O:10][H:20])c(C(C)C)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])C(NCC[NH:10]C(C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])C(NCC[NH+:10](C(C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCCNCCCCCC[NH:10]CCCC.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCNCCCCCC[NH+:10](CCCC)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=C(C#N)C#N)[O:21][H:20].O=C(N[O-:10])c1cccc([N+](=O)[O-])c1>>CC(=C(C#N)C#N)[O-:21].O=C(N[O:10][H:20])c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"O=C(c1cc(Br)cs1)[O-:10].c1cnc2ccc([S:21][H:20])cc2c1>>O=C(c1cc(Br)cs1)[O:10][H:20].c1cnc2ccc([S-:21])cc2c1 10=20;20,21=21",
"Cc1cc([O:21][H:20])n(C2CC[NH+](C)CC2)n1.O=C([O-])C[NH+](CC(=O)[O-])Cc1ccccc1[O-:10]>>Cc1cc([O-:21])n(C2CC[NH+](C)CC2)n1.O=C([O-])C[NH+](CC(=O)[O-])Cc1ccccc1[O:10][H:20] 10=20;20,21=21",
"C[NH+](C)CCc1c[nH]c2ccc([O-:10])cc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)CCc1c[nH]c2ccc([O:10][H:20])cc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccc(C2SCC[NH:10]2)cc1.O=C1CNC(=O)[N:21]1[H:20]>>Cc1ccc(C2SCC[NH+:10]2[H:20])cc1.O=C1CNC(=O)[N-:21]1 10=20;20,21=21",
"CC(C)S(=O)(=O)n1c(N)[n:10]c2ccc(C(=CC(N)=O)c3cc(F)ccc3F)cc21.O=C(c1ccccc1)c1ccccc1[O:21][H:20]>>CC(C)S(=O)(=O)n1c(N)[n+:10]([H:20])c2ccc(C(=CC(N)=O)c3cc(F)ccc3F)cc21.O=C(c1ccccc1)c1ccccc1[O-:21] 10=20;20,21=21",
